US06620828B2
Acetic anhydride (21.3 μL, 0.2250 mmol) was added to a solution of 4-(3-aminophenyl)-N2′-(3,4,5-trimethoxyphenyl)-[2,5′]bithiazolyl-2′,4′-diamine (50.0 mg, 0.1125 mmol), prepared as described in Example C(1), dissolved in pyridine (28.5 μL, 0.352 mmol), DMF (70 μL), and THF (700 μL) at −15° C. (bath temperature). After 30 minutes, the reaction was quenched with MeOH (0.5 mL), concentrated, and purified by preparative C-18 reverse-phase HPLC (gradient elution, 95% H2O/0.1% TFA/CH3CN to 5% H2O/0.1% TFA/CH3CN), giving 46 mg (82% yield) of N-{3-[4′-amino-2′-(3,4,5-trimethoxy-phenylamino)-[2,5′]bithiazolyl-4-yl]-phenyl}acetamide.

reactant | Acetic anhydride | 0.2250 mmol, 21.3 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(3-aminophenyl)-N2′-(3,4,5-trimethoxyphenyl)-[2,5′]bithiazolyl-2′,4′-diamine | 0.1125 mmol, 50.0 mg | NC=1C=C(C=CC1)C=1N=C(SC1)C1=C(N=C(S1)NC1=CC(=C(C(=C1)OC)OC)OC)N | C21H21N5O3S2
reactant | pyridine | 0.352 mmol, 28.5 μL | N1=CC=CC=C1 | C5H5N
reactant | DMF | 70 μL | CN(C)C=O | C3H7NO
solvent | THF | 700 μL | C1CCOC1 | C4H8O
product | N-{3-[4′-amino-2′-(3,4,5-trimethoxy-phenylamino)-[2,5′]bithiazolyl-4-yl]-phenyl}acetamide | 46 mg, 82% yield | NC=1N=C(SC1C=1SC=C(N1)C=1C=C(C=CC1)NC(C)=O)NC1=CC(=C(C(=C1)OC)OC)OC | C23H23N5O4S2
